US05965730
To a solution of (2S)-2-(2-bromoisonicotinoylamino)-3-(3,4-dimethoxyphenyl)-1-propanol (1.2 g) in dimethylformamide (40 ml) are added potassium carbonate (0.88 g) and copper (I) iodide (0.61 g) at room temperature under nitrogen atmosphere. The mixture is heated with stirring at 120° C. for 30 minutes. To the reaction mixture is added 4-(3-pyridyl)phthalazin-1(2H)-one (1.42 g), and the mixture is heated with stirring at 130° C. for two hours. The reaction mixture is cooled to room temperature, and thereto is added aqueous ammonia. The mixture is extracted with chloroform, and the extract is washed, dried and concentrated. The residue is purified by silica gel chromatography (solvent; chloroform:acetone=1:1) to give (2S)-2-{2-[4-(3-pyridyl)phthalazin-1(2H)-on-2-yl]isonicotinoylamino}-3-(3,4-dimethoxyphenyl)-1-propanol (330 mg).

reactant | (2S)-2-(2-bromoisonicotinoylamino)-3-(3,4-dimethoxyphenyl)-1-propanol | 1.2 g | BrC=1C=C(C(=O)N[C@H](CO)CC2=CC(=C(C=C2)OC)OC)C=CN1 | C17H19BrN2O4
reactant | potassium carbonate | 0.88 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(3-pyridyl)phthalazin-1(2H)-one | 1.42 g | N1=CC(=CC=C1)C1=NNC(C2=CC=CC=C12)=O | C13H9N3O
reactant | ammonia | N | H3N
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
catalyst | copper (I) iodide | 0.61 g | [Cu]I
product | (2S)-2-{2-[4-(3-pyridyl)phthalazin-1(2H)-on-2-yl]isonicotinoylamino}-3-(3,4-dimethoxyphenyl)-1-propanol | 330 mg | N1=CC(=CC=C1)C1=NN(C(C2=CC=CC=C12)=O)C=1C=C(C(=O)N[C@H](CO)CC2=CC(=C(C=C2)OC)OC)C=CN1 | C30H27N5O5
